US05264577
Step B: Preparation of α-Amino-10,11-dihydro-5H -dibenzo[a,d]cycloheptene-5-acetic acid, hydrochloride
The crude ethyl α-[(diphenylmethylene)amino]-10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-acetate is mixed with 250 mL of 6N hydrochloric acid solution and heated at reflux for 2 hours. After cooling to room temperature a solid is collected by filtration, washed with water and diethyl ether, air dried, then dried at 50° C./2 mm Hg. This provides 6.43 g of the title compound; mp >280° C.

reactant | ethyl α-[(diphenylmethylene)amino]-10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-acetate | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OCC)C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C32H29NO2
reactant | hydrochloric acid | 6N, 250 mL | Cl | ClH
product | α-Amino-10,11-dihydro-5H -dibenzo[a,d]cycloheptene-5-acetic acid, hydrochloride | Cl.NC(C(=O)O)C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | InChI=1S/C17H17NO2.ClH/c18-16(17(19)20)15-13-7-3-1-5-11(13)9-10-12-6-2-4-8-14(12)15;/h1-8,15-16H,9-10,18H2,(H,19,20);1H
